US05650428
The procedure described in Example 1 was repeated, except that dihydropyran (0.4 ml) and methyl m-aminophenylacetate (604 mg) were successively reacted with (RS)-2-(4-chlorobenzenesulfonylamino)-3-hydroxypropanoic acid (893 mg) to obtain (RS)-2-(4-chlorobenzenesulfonylamino)-N-(3-(methoxycarbonylmethyl)phenyl)-3-(tetrahydropyran-2-yloxy)propanamide (624 mg).

reactant | dihydropyran | 0.4 ml | O1CCCC=C1 | C5H8O
reactant | methyl m-aminophenylacetate | 604 mg | NC=1C=C(C=CC1)CC(=O)OC | C9H11NO2
reactant | (RS)-2-(4-chlorobenzenesulfonylamino)-3-hydroxypropanoic acid | 893 mg | ClC1=CC=C(C=C1)S(=O)(=O)NC(C(=O)O)CO | C9H10ClNO5S
product | (RS)-2-(4-chlorobenzenesulfonylamino)-N-(3-(methoxycarbonylmethyl)phenyl)-3-(tetrahydropyran-2-yloxy)propanamide | 624 mg | ClC1=CC=C(C=C1)S(=O)(=O)NC(C(=O)NC1=CC(=CC=C1)CC(=O)OC)COC1OCCCC1 | C23H27ClN2O7S
